US07271264B2
11-[4-(2-Piperidin-1-yl-ethoxy)-phenyl]-11,13-dihydro-12-oxa-benzo[3,4]cyclohepta[1,2-a]naphthalene-2,8-diolhydrochloride salt
Dissolve 1-{2-[4-(2,8-dimethoxy-11,13-dihydro-12-oxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-11-yl)-phenoxy]-ethyl}-piperidine (195 mg, 0.383 mmol) in DMF. Add sodium ethanethiol (306 mg, 3.65 mmol) and reflux. Reflux the reaction for 48 hours. Add more sodium ethanethiol (230 mg) and reflux for an additional 10 hours. Pour reaction onto ice and partion between water and ethyl acetate. Bring aqueous layer to a pH of about 1-2 using 6M HCl. Extract the aqueous layer three times with ethyl acetate. Combine extracts and wash with brine. Concentrate in vacuo and purify on a SCX column to yield 62 mg of free base title compound. Extract the aqueous layer again to retrieve more product. Combine the products and purify by precipitation from ether. Filter the solid and redissolve with methanol and 1M HCl. Concentrate in vacuo to yield 140 mg of the title compound. 1H NMR (d6-DMSO) δ 10.87 (s, 1H), 10.02 (s, 1H), 9.71 (s, 1H), 7.79 (d, J=8.8 Hz, 1H), 7.46 (d, J=8.6 Hz, 1H), 7.24 (d, J=2.1 Hz, 1H), 7.15 (m, 1H), 6.83 (d, J=1.8 Hz, 2H), 6.7 (m, 4H), 6.58 (m, 3H), 4.50 (ab, Jab=12.5 Hz, 1H), 4.32 (ab, Jab=11.3 Hz, 1H), 4.24 (s, 2H), 3.32 (m, 4H), 2.90 (m, 2H).

reactant | 1-{2-[4-(2,8-dimethoxy-11,13-dihydro-12-oxa-benzo[3,4]cyclohepta[1,2-a]naphthalen-11-yl)-phenoxy]-ethyl}-piperidine | 0.383 mmol, 195 mg | COC1=CC2=C(C=3C(=C4C=CC(=CC4=CC3)OC)C(OC2)C2=CC=C(OCCN3CCCCC3)C=C2)C=C1 | C33H35NO4
reactant | sodium ethanethiol | 3.65 mmol, 306 mg | C(C)S.[Na]
reactant | sodium ethanethiol | 230 mg | C(C)S.[Na]
reactant | water | O | H2O
reactant | HCl | 6M | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11-[4-(2-Piperidin-1-yl-ethoxy)-phenyl]-11,13-dihydro-12-oxa-benzo[3,4]cyclohepta[1,2-a]naphthalene-2,8-diolhydrochloride salt | 62 mg | Cl.N1(CCCCC1)CCOC1=CC=C(C=C1)C1OCC2=C(C=3C1=C1C=CC(=CC1=CC3)O)C=CC(=C2)O | InChI=1S/C31H31NO4.ClH/c33-24-8-13-28-22(18-24)6-11-29-27-12-7-25(34)19-23(27)20-36-31(30(28)29)21-4-9-26(10-5-21)35-17-16-32-14-2-1-3-15-32;/h4-13,18-19,31,33-34H,1-3,14-17,20H2;1H
